US08202858B2
A solution of 4-(3,3-dimethyl-butyl)-piperazine-1-carboxylic acid tert-butyl ester from Example E4.1 (9.1 g, 31.8 mmol) in methanol (100 ml) was treated with 4N HCl/dioxan (100 ml) and the mixture was stirred at room temperature for 30 min then concentrated in vacuo. The residue was triturated with diethyl ether and the resulting solid recrystallised from methanol/diethyl ether to yield 1-(3,3-dimethyl-butyl)-piperazine dihydrochloride (7.4 g, 90%).

reactant | 4-(3,3-dimethyl-butyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)CCC(C)(C)C | C15H30N2O2
reactant | HCl dioxan | 4N, 100 ml | Cl.O1CCOCC1
solvent | methanol | 100 ml | CO | CH4O
product | 1-(3,3-dimethyl-butyl)-piperazine dihydrochloride | 7.4 g, 90% | Cl.Cl.CC(CCN1CCNCC1)(C)C | InChI=1S/C10H22N2.2ClH/c1-10(2,3)4-7-12-8-5-11-6-9-12;;/h11H,4-9H2,1-3H3;2*1H
